US05576313
Step 2: Preparation of N-t-Butoxycarbonyl-4-hydroxymethyl-4-(2-methylbenzyl)piperidine
To a suspension of lithium aluminum hydride (0.32 g, 8.4 L s mmol) in anhydrous ether (50 ml) was added a solution of 4-(2-methylbenzyl) N-t-butoxycarbonyl isonipecotic acid benzyl ester (3.0 g, 7.1 mmol) in anhydrous ether (25 ml) over 15 min. The resulting mixture was heated gently at reflux for 1 h. The reaction mixture was then quenched with the slow and successive addition of H2O (0.32 ml), 15% aqueous NaOH, and H2O (0.96 ml). After sirring for 30 min., the mixture was filtered through Celite and the filtrate washed with brine, dried (MgSO4), and concentrated in vacuo to a colorless syrup. Purification by column chromatography on silica with 25%-50% EtOAc/hexane as eluent afforded the product as a colorless gum. This material was recrystallized from EtOAc and hexane to afford a white solid. m.p. 104°-106° C.

reactant | lithium aluminum hydride | 8.4 L, 0.32 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(2-methylbenzyl) N-t-butoxycarbonyl isonipecotic acid benzyl ester | 7.1 mmol, 3.0 g | C(C1=CC=CC=C1)OC(C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)C)=O | C26H33NO4
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | N-t-Butoxycarbonyl-4-hydroxymethyl-4-(2-methylbenzyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=C(C=CC=C1)C)CO | C19H29NO3
